US07989622B2
2-Bromo-N-(3-(N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)sulfamoyl)phenyl)acetamide
In a 50 mL round-bottom flask was added 2-bromoacetic acid (1.87 g, 13.5 mmol), N,N-diisopropylcarbodiimide (860 mg, 6.8 mmol) and 10 mL DCM. To this mixture was added 3-amino-N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)benzenesulfonamide (2.03 g, 4.5 mmol), prepared using procedures similar to those in Example 168. The reaction was stirred overnight at room temperature. Complete consumption of the starting aniline was confirmed by LCMS. The solvent was evaporated off to yield the crude product (2-bromo-N-(3-(N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)sulfamoyl)phenyl)acetamide). This was used directly in the next step without further purification.

reactant | 2-bromoacetic acid | 13.5 mmol, 1.87 g | BrCC(=O)O | C2H3BrO2
reactant | N,N-diisopropylcarbodiimide | 6.8 mmol, 860 mg | CC(C)N=C=NC(C)C | C7H14N2
reactant | 3-amino-N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)benzenesulfonamide | 4.5 mmol, 2.03 g | NC=1C=C(C=CC1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)OC | C22H21N5O4S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-(3-(N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)sulfamoyl)phenyl)acetamide | BrCC(=O)NC1=CC(=CC=C1)S(NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)OC)(=O)=O | C24H22BrN5O5S
